US07323567B2
c) 4-Bromo-6,6-dimethyl-2-(4-methyl-3-nitrophenyl)-1H-imidazo[4,5-h]isoquinoline-7,9(6H,8H)-dione
To a solution of 7,8-diamino-6-bromo-4,4-dimethylisoquinoline-1,3(2H,4H)-dione (1.40 g, 4.70 mmol) in MeCN (47 mL) and DMF (3 mL) was added 4-methyl-3-nitro-benzaldehyde (814.2 mg, 4.93 mmol) and p-chloranil (1.21 g, 4.93 mmol). The reaction mixture was stirred at 60° C. for 8 h. The cooled mixture was diluted with MeCN (50 mL) and the suspension was filtered. The solid was dried to give the title compound (1.65 g, 79% yield).

reactant | 7,8-diamino-6-bromo-4,4-dimethylisoquinoline-1,3(2H,4H)-dione | 4.70 mmol, 1.40 g | NC1=C(C=C2C(C(NC(C2=C1N)=O)=O)(C)C)Br | C11H12BrN3O2
reactant | 4-methyl-3-nitro-benzaldehyde | 4.93 mmol, 814.2 mg | CC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
reactant | p-chloranil | 4.93 mmol, 1.21 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | MeCN | 47 mL | CC#N | C2H3N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 4-Bromo-6,6-dimethyl-2-(4-methyl-3-nitrophenyl)-1H-imidazo[4,5-h]isoquinoline-7,9(6H,8H)-dione | 1.65 g, 79% yield | BrC1=CC=2C(C(NC(C2C2=C1N=C(N2)C2=CC(=C(C=C2)C)[N+](=O)[O-])=O)=O)(C)C | C19H15BrN4O4
